US05489570
A solution of 4-(3-cyclopropyl-2-t-butyloxycarbonyl-1,3-dioxoprop-1-yl)-2,2-difluoro-7-methylsulphenyl-1,3-benzodioxole (10.3 g) and para-toluenesulphonic acid (0.5 g) was heated under reflux with toluene for 3 hours. After cooling, the solvent was evaporated in vacuo, and ethyl acetate added. The solution was washed with water, dried over anhydrous magnesium sulphate and evaporated. The residue was purified by column chromatography, eluting with ethyl acetate/cyclohexane to yield 4-(3-cyclopropyl-1,3-dioxoprop-1-yl)-2,2-difluoro-7-methylsulphenyl-1,3-benzodioxole (6.61 g) m.p. 117.5°-118.5° C.

reactant | 4-(3-cyclopropyl-2-t-butyloxycarbonyl-1,3-dioxoprop-1-yl)-2,2-difluoro-7-methylsulphenyl-1,3-benzodioxole | 10.3 g | C1(CC1)C(C(C(=O)C1=CC=C(C=2OC(OC21)(F)F)SC)C(=O)OC(C)(C)C)=O | C19H20F2O6S
reactant | para-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(3-cyclopropyl-1,3-dioxoprop-1-yl)-2,2-difluoro-7-methylsulphenyl-1,3-benzodioxole | 6.61 g | C1(CC1)C(CC(=O)C1=CC=C(C=2OC(OC21)(F)F)SC)=O | C14H12F2O4S
